US07910585B2
To a suspension of 4-fluoro-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one (2.0 g, 8.52 mmol) and potassium carbonate (657.9 mg, 4.76 mmol), triethylamine (2.0 mL, 14.3 mmol) in dimethylsulfoxide (20 mL), piperazine-1-carboxylic acid tert-butyl ester (1.77 g, 9.52 mmol) is added and the mixture is stirred at 60° C. for 6 hours. The mixture is poured into iced water and the resulting brown solids are collected by filtration. The obtained solid is dried in vacuo at 50° C. to afford 4-(2-methyl-7-nitro-1-oxo-2,3-dihydro-1H-isoindol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester as brown solid in 75% yield. Rf=0.25 (Hexane/AcOEt=1/1). 1H-NMR (400 MHz, CDCl3, δ, ppm): 1.50 (s, 9H), 3.13 (t, 4H), 3.20 (s, 3H), 3.61 (t, 4H), 4.37 (s, 2H), 7.04 (d, 1H), 7.78 (d, 1H).

reactant | 4-fluoro-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 8.52 mmol, 2.0 g | FC1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C9H7FN2O3
reactant | potassium carbonate | 4.76 mmol, 657.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 14.3 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | piperazine-1-carboxylic acid tert-butyl ester | 9.52 mmol, 1.77 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(2-methyl-7-nitro-1-oxo-2,3-dihydro-1H-isoindol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 75% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C18H24N4O5
